US05180742
7-(2,5-Dimethoxy-3,4,6-trimethylphenyl)-7-phenylheptanol (1.85 g, 5.0 mmole) was dissolved in a mixed solution of acetonitrile (12 ml) and water (6 ml), and a cooled solution of ceric ammonium nitrate (8.22 g, 5×3 mmole) in 50% aqueous acetonitrile (16 ml) was added dropwise to the solution, under ice cooling, over the 20-minutes period. After stirring was continued for another 20 minutes under ice cooling, acetonitrile was distilled off under reduced pressure, and isopropyl ether was added to the residue to conduct extraction. The isopropyl ether layer was separated out, washed with aqueous sodium chloride solution, dried (magnesium sulfate), and evaporated. The residual solution was chromatographed on a silica gel column, and purification was performed (elution with isopropyl ether) to give 7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-7-phenylheptanol (1.53 g, 90%). Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 1. By following the procedure of this Example, the Compound Nos. 9, 10, 35, 36, 46 to 55 and 64 to 67 were prepared.

reactant | 7-(2,5-Dimethoxy-3,4,6-trimethylphenyl)-7-phenylheptanol | 5.0 mmole, 1.85 g | COC1=C(C(=C(C(=C1C)C)OC)C)C(CCCCCCO)C1=CC=CC=C1 | C24H34O3
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
solvent | water | 6 ml | O | H2O
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
product | 7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-7-phenylheptanol | 1.53 g, 90% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCCCO)C1=CC=CC=C1 | C22H28O3
